US06964974B2
In analogy to example 1.4 and 1.5, reaction of 4-(4-Brom-butoxy)-piperidine hydrogen chloride with 4-chlorophenyl chloroformate and 2-ethylamino-ethanol yielded 4-{4-[Ethyl-(2-hydroxy-ethyl)-amino]-butoxy}-piperidine-1-carboxylic acid 4-chlorophenyl ester, MS: 399 (MH+).

reactant | 4-(4-Brom-butoxy)-piperidine hydrogen chloride | Cl.BrCCCCOC1CCNCC1
reactant | 4-chlorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | 2-ethylamino-ethanol | C(C)NCCO | C4H11NO
product | 4-{4-[Ethyl-(2-hydroxy-ethyl)-amino]-butoxy}-piperidine-1-carboxylic acid 4-chlorophenyl ester | ClC1=CC=C(C=C1)OC(=O)N1CCC(CC1)OCCCCN(CCO)CC | C20H31ClN2O4
